US04075001
Into a pressure bottle were placed 5.6 g of 3-amino-2-cyano-3-(methylthio)propenenitrile and 3 ml of dimethylformamide, and the mixture was cooled to 0°. A volume of 5.4 ml (3.6 g) of dimethylamine was condensed in a dry-ice trap and added to the pressure bottle. The bottle was sealed and the reaction mixture was heated, with stirring, at 100° for 3-4 hours (in subsequent runs, the heating time was reduced to 80 minutes without reducing the yield). After this time, the mixture was allowed to cool to ambient temperature, where it stood for two days. The pressure bottle was cooled to 0° and opened. The mixture was allowed to attain ambient temperature, then was poured into 300 ml of ice-water, causing a white solid to precipitate. The slurry was stirred for 30 minutes. The solid product was collected by filtration and washed with cold water to give 5.1 g of 3-amino-2-cyano-3-(dimethylamino)propenenitrile, m.p. 228°-229°. The nmr was consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(methylthio)propenenitrile | 5.6 g | NC(=C(C#N)C#N)SC | C5H5N3S
reactant | dimethylamine | 5.4 ml, 3.6 g | CNC | C2H7N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-amino-2-cyano-3-(dimethylamino)propenenitrile | 5.1 g | NC(=C(C#N)C#N)N(C)C | C6H8N4
